US07064143B1
(R)-N-(2-Fluoro-3-phenylpropyl)-4-methylbenzenesulfonamide
To a stirred solution of hydrogen fluoride-pyridine (13 mL) at 0° C. under nitrogen was added (S)-(+)-2-benzyl-1-(p-tolylsulfonyl)aziridine (2 g) in one portion. The cooling bath was removed briefly until reaction became exothermic and then returned. After an additional 5 min the reaction mixture was poured onto 100 mL of cracked ice. The product was extracted into ether, washed carefully with saturated NaHCO3 and brine, dried over Na2SO4, and evaporated to a white solid. The solid was triturated with hexane, collected and washed with ether/hexane to give 1.7 g of the title compound. M.P. 130–133° C.; MS ES (M++H)=308.

reactant | hydrogen fluoride-pyridine | 13 mL | N1=CC=CC=C1.F
reactant | (S)-(+)-2-benzyl-1-(p-tolylsulfonyl)aziridine | 2 g | C(C1=CC=CC=C1)C1[N@](C1)S(=O)(=O)C1=CC=C(C=C1)C | C16H17NO2S
product | (R)-N-(2-Fluoro-3-phenylpropyl)-4-methylbenzenesulfonamide | 1.7 g | F[C@@H](CNS(=O)(=O)C1=CC=C(C=C1)C)CC1=CC=CC=C1 | C16H18FNO2S
